US06489318B1
Allyl 4-(ethoxycarbonylmethylthio)butyrate
Sodium (9.06 g; 0.39 mole) was decomposed in allyl alcohol (380 ml). The obtained solution was treated by dropwise adding of first ethyl mercaptoacetate (42.7 ml; 0.39 mole) at the temperature of 0° C. and then of allyl 4-chlorobutyrate (58.3 g; 0.36 mole) prepared according to the process disclosed in Example 2a. The obtained mixture was stirred for three hours at room temperature and then for 1 hour at reflux temperature. The mixture was concentrated by evaporation and poured into a mixture of diethylether (200 ml) and of an ice/water mixture (100 g). The obtained solution was acidified with 1M hydrochloric acid solution to achieve a pH value of the medium between 3 and 6. The ether phase was separated and the obtained aqueous phase was extracted with diethyl ether (200 ml). The combined ether fractions were washed with water (200 ml) and 4% aqueous sodium hydrogencarbonate solution (200 ml) and dried with magnesium sulfate. After the removal of the drying agent and evaporation of ether, the title compound (78.1 g; 84%) was obtained, which was used in the crude form in the next reaction.

reactant | Sodium | 0.39 mole, 9.06 g | [Na] | Na
reactant | ethyl mercaptoacetate | 0.39 mole, 42.7 ml | SCC(=O)OCC | C4H8O2S
reactant | allyl 4-chlorobutyrate | 0.36 mole, 58.3 g | ClCCCC(=O)OCC=C | C7H11ClO2
solvent | allyl alcohol | 380 ml | C(C=C)O | C3H6O
product | Allyl 4-(ethoxycarbonylmethylthio)butyrate | 78.1 g, 84% | C(C)OC(=O)CSCCCC(=O)OCC=C | C11H18O4S
